US08309546B2
Step 2: tert-Butyl {5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-yl}methylcarbamate
Di-tert-butyl dicarbonate (2.01 g, 9.19 mmol) and 4-dimethylaminopyridine (0.11 g, 0.92 mmol) were added to a dimethylformamide suspension (5.0 ml) of 5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-N-methylpyrimidin-2-amine (1.68 g, 4.59 mmol) at room temperature. The resulting mixture was stirred at 60° C. for 3.5 hours and then the reaction mixture was poured into ethyl acetate, washed successively with 10% aqueous citric acid solution and saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to give the title compound as a pale yellow white amorphous substance. This substance was used in the next step (Step 3) without being purified.

reactant | Di-tert-butyl dicarbonate | 9.19 mmol, 2.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
reactant | 5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-N-methylpyrimidin-2-amine | 4.59 mmol, 1.68 g | C1(CC1)CN1C2=NC(=NC(=C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC | C18H22N8O
catalyst | 4-dimethylaminopyridine | 0.92 mmol, 0.11 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl {5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-yl}methylcarbamate | C1(CC1)CN1C2=NC(=NC(=C2N=C1)N1CCOCC1)C=1C=NC(=NC1)CNC(OC(C)(C)C)=O | C23H30N8O3
